US07534802B2
N-(4-Chlorophenyl)-2-[2-(4-pyridyl)ethylthio]pyridine-3-carboxamide (Compound No. 2-1)
To a suspension of 60% sodium hydride (35 mg, 0.88 mmol) in N,N-dimethylformamide (1 mL), a solution of 4-pyridineethanethiol (104 mg, 0.75 mmol) in N,N-dimethylformamide (1.5 mL) and a solution of 2-chloro-N-(4-chlorophenyl)pyridine-3-carboxamide (200 mg, 0.75 mmol, Reference compound No. 2-1) in N,N-dimethylformamide (1.5 mL) were added under ice-cooling successively. The reaction mixture was stirred at room temperature for 2 hours, and then ethyl acetate (40 mL) was added thereto. The ethyl acetate layer was washed with water (40 mL) and brine (40 mL) and dried over anhydrous magnesium sulfate, then the solvent was evaporated under reduced pressure. The precipitated solid was filtered off and washed with diethyl ether :ethyl acetate (3:1). The solid was dried under reduced pressure to give 240 mg of the target compound as a white solid. (Yield 88%)

reactant | sodium hydride | 0.88 mmol, 35 mg | [H-].[Na+]
reactant | 4-pyridineethanethiol | 0.75 mmol, 104 mg | N1=CC=C(C=C1)CCS | C7H9NS
reactant | 2-chloro-N-(4-chlorophenyl)pyridine-3-carboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)Cl | C12H8Cl2N2O
reactant | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | N-(4-Chlorophenyl)-2-[2-(4-pyridyl)ethylthio]pyridine-3-carboxamide | 240 mg, Yield 88% | ClC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)SCCC1=CC=NC=C1 | C19H16ClN3OS
